US06583156B1
4-(2-Benzofuranyl)-2,8-bis(trifluoromethyl)quinoline
A solution of 4-bromo-2,8-bis(trifluoromethyl)quinoline (500 mg, 1.45 mmol) in dry dimethoxyethane (10 mL) was treated with tetrakis(triphenylphosphine)palladium (2.3 mg, 10 mol %), stirred for 10 min, treated with benzofuran-2-boronic acid (235 mg, 1.45 mmol) and 2-M Na2CO3 solution (1.45 mL, 2.9 mmol) then refluxed for 2 h. The mixture was cooled, treated with water (10 mL), extracted with EtOAc (3×20 mL), the organic phase was washed with brine (20 mL), dried (MgSO4), concentrated in vacuo and the resulting yellow solid recrystallised from heptane to give the title compound (351 mg, 64%) as an off-white crystalline solid: mp 129-130° C.; IR νmax (Nujol)/cm−1 2924, 1592, 1463, 1314, 1145, 1116, 1010, 749 and 691; NMR δH (400 MHz, CDCl3) 7.35 (1H, t, J 7.1 Hz), 7.42-7.47 (2H, m), 7.65 (1H, d, J 7.5 Hz), 7.73 (1H, d, J 8.0 Hz), 7.80 (1H, t, J 7.9 Hz), 8.19-8.23 (2H, m) and 8.86 (1H, d, J 9.0 Hz).

reactant | 4-bromo-2,8-bis(trifluoromethyl)quinoline | 1.45 mmol, 500 mg | BrC1=CC(=NC2=C(C=CC=C12)C(F)(F)F)C(F)(F)F | C11H4BrF6N
reactant | benzofuran-2-boronic acid | 1.45 mmol, 235 mg | O1C(=CC2=C1C=CC=C2)B(O)O | C8H7BO3
reactant | Na2CO3 | 2.9 mmol, 1.45 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | water | 10 mL | O | H2O
solvent | dimethoxyethane | 10 mL | C(OC)COC | C4H10O2
catalyst | tetrakis(triphenylphosphine)palladium | 2.3 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-(2-Benzofuranyl)-2,8-bis(trifluoromethyl)quinoline | 351 mg, 64% | O1C(=CC2=C1C=CC=C2)C2=CC(=NC1=C(C=CC=C21)C(F)(F)F)C(F)(F)F | C19H9F6NO
